US04797401
(A) 1-(2-Chloro-4-nitrophenyl)piperazine
3,4-Dichloronitrobenzene (10 g), piperazine (30 g) and dioxan (10 ml) were stirred for 4 hours under gentle reflux (internal temp. 120°-130°). The mixture was then cooled and water (50 ml) was added; the desired product crystallized out and was filtered off, washed with water and dried: yield of the compound 11.32 g. A small portion (0.6 g) was recrystallized from petroleum b.p. 60°-80°/ethyl acetate, yielding the product, (0.36 g), m.p. 100°-102°.

reactant | 3,4-Dichloronitrobenzene | 10 g | ClC=1C=C(C=CC1Cl)[N+](=O)[O-] | C6H3Cl2NO2
reactant | piperazine | 30 g | N1CCNCC1 | C4H10N2
reactant | dioxan | 10 ml | O1CCOCC1 | C4H8O2
solvent | water | 50 ml | O | H2O
product | 1-(2-Chloro-4-nitrophenyl)piperazine | ClC1=C(C=CC(=C1)[N+](=O)[O-])N1CCNCC1 | C10H12ClN3O2
